US04265723
2,6-Dimethoxybenzoyl-diphenylphosphine oxide XXI
20 parts of 2,6-dimethoxybenzoyl chloride are suspended in 20 parts by volume of toluene in the same apparatus as described for the preparation of initiator XX, and 21.6 parts of methoxydiphenylphosphine are added dropwise to this mixture at 50°-55° C., whilst stirring. Stirring is continued for 3 hours at 50° C. and the product is then recrystallized directly from toluene. 32 parts of yellowish crystals are obtained. Melting point: 124°-126° C.

reactant | 2,6-dimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | methoxydiphenylphosphine | COP(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-Dimethoxybenzoyl-diphenylphosphine oxide | COC1=C(C(=O)P(C2=CC=CC=C2)(C2=CC=CC=C2)=O)C(=CC=C1)OC | C21H19O4P
